US09278954B2
2-Bromo-5-(2,2-difluoro-cyclopropylmethoxy)-pyridine
The mixture of 5.00 g (28.7 mmol) of 2-bromo-5-hydroxypyridine, 6.14 g (35.9 mmol) of 1-bromomethyl-2,2-difluorocyclopropane and 9.93 g (71.8 mmol) of K2CO3 in 100 ml ACN is stirred at 70° C. for 14 h. The reaction mixture is diluted with EtOAc, washed with water and 1N aq. NaOH, dried over MgSO4, filtered and the solvent is removed in vacuo.

reactant | 2-bromo-5-hydroxypyridine | 28.7 mmol, 5.00 g | BrC1=NC=C(C=C1)O | C5H4BrNO
reactant | 1-bromomethyl-2,2-difluorocyclopropane | 35.9 mmol, 6.14 g | BrCC1C(C1)(F)F | C4H5BrF2
reactant | K2CO3 | 71.8 mmol, 9.93 g | C(=O)([O-])[O-].[K+].[K+]
solvent | ACN | 100 ml | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-Bromo-5-(2,2-difluoro-cyclopropylmethoxy)-pyridine | BrC1=NC=C(C=C1)OCC1C(C1)(F)F | C9H8BrF2NO
